US07960394B2
(2) Production of 5-bromo-2-cyano-3-nitropyridine
2,5-Dibromo-3-nitropyridine (3.80 g, 13.4 mmol) and copper cyanide (2.42 g, 26.8 mmol) were mixed, and stirred under heat at 150° C. for 2 hours. After cooled to room temperature, the contents were filtered, and the residue was washed with acetone. The mother liquid was concentrated, and the resulting residue was purified through silica gel column chromatography (hexane/ethyl acetate=9/1 to 3/1) to obtain the intended compound (1.80 g, 59%) as a yellow solid.

reactant | 2,5-Dibromo-3-nitropyridine | 13.4 mmol, 3.80 g | BrC1=NC=C(C=C1[N+](=O)[O-])Br | C5H2Br2N2O2
reactant | copper cyanide | 26.8 mmol, 2.42 g | [Cu](C#N)C#N
product | 5-bromo-2-cyano-3-nitropyridine | 1.80 g, 59% | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
